data/oMe_Silver.jsonl
{"reaction_id": "NR-217_1-C(C)(C)C_2-C(=O)OCC","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C(C)(C)C)C(C(=O)OCC)[Si](C)(C)C"],"products_smiles": ["C(C(C)(C)C)=C(C(=O)OCC)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C(C)(C)C)C(C(=O)OCC)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)=C(C(=O)OCC)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
{"reaction_id": "NR-325_1-C1CCCCC1_2-c1ccc2ccccc2c1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(C1CCCCC1)c1ccc2ccccc2c1","NN","[OH-]"],"products_smiles": ["C(C1CCCCC1)c1ccc2ccccc2c1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(C1CCCCC1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(C1CCCCC1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(C1CCCCC1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](C1CCCCC1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
{"reaction_id": "NR-113_1-C_2-C(C)(C)C_3-C_4-C(C)(C)C_5-C(C)(C)C","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(C)#[N+][O-]","C(C)(C)C/C(C)=C(/C(C)(C)C)C(C)(C)C"],"products_smiles": ["C1(C)=NOC(C(C)(C)C)(C(C)(C)C)C1(C(C)(C)C)(C)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)=NOC(C(C)(C)C)(C(C)(C)C)C1(C(C)(C)C)(C)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
